US08211892B2
10 g of 4-(5-(piperazin-1-yl)pyridin-2-yl)-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester are placed in a 500 ml round-bottomed flask. 126 ml of dichloromethane are added, followed by 4.23 ml of triethylamine and, finally, 2.7 ml of cyclopropylsulphonyl chloride. The reaction mixture is stirred at ambient temperature for 16 h, then washed with water and once with a saturated sodium chloride solution, dried over magnesium sulphate and then evaporated under reduced pressure. The crude product obtained is chromatographed on silica gel, elution being carried out with a gradient of methanol in dichloromethane varying from 0% to 10%. 10.9 g of 4-[5-(4-(cyclopropylsulphonyl)piperazin-1-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester are obtained.

reactant | 4-(5-(piperazin-1-yl)pyridin-2-yl)-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 10 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=NC=C(C=C1)N1CCNCC1 | C22H29N5O2
reactant | dichloromethane | 126 ml | ClCCl | CH2Cl2
reactant | cyclopropylsulphonyl chloride | 2.7 ml | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | triethylamine | 4.23 ml | C(C)N(CC)CC | C6H15N
product | 4-[5-(4-(cyclopropylsulphonyl)piperazin-1-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 10.9 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=NC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1CC1 | C25H33N5O4S
